US07371748B2
4-Hydroxy-4-methyl-piperidine-1-carboxylic acid [4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-amide
Using 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine, phenyl chloroformate and 4-hydroxy-4-methyl-piperidine, the title compound was prepared as off-white solid (56% yield). MS: m/e=406(M+H+), mp 90-95° C.

reactant | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)C2CCOCC2 | C13H16N2O2S
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-hydroxy-4-methyl-piperidine | OC1(CCNCC1)C | C6H13NO
product | 4-Hydroxy-4-methyl-piperidine-1-carboxylic acid [4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)N2CCC(CC2)(C)O)C2CCOCC2 | C20H27N3O4S
